US04119710
1-(4'-Amino-3'-chloro-5'-trifluoromethyl-phenyl)-2-isopropylamino-ethanol,
m.p. 104°-106° C., m.p. of the hydrochloride: 185°-187° C., was prepared from 4'-amino-3'-chloro-2-isopropylamino-5'-trifluoromethyl-acetophenone hydrochloride and sodium borohydride analogous to Example 1.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-chloro-2-isopropylamino-5'-trifluoromethyl-acetophenone hydrochloride | Cl.NC1=C(C=C(C=C1C(F)(F)F)C(CNC(C)C)=O)Cl
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-(4'-Amino-3'-chloro-5'-trifluoromethyl-phenyl)-2-isopropylamino-ethanol | NC1=C(C=C(C=C1C(F)(F)F)C(CNC(C)C)O)Cl | C12H16ClF3N2O
